US07476666B2
Step 3: Methyl 3-benzyloxy-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of dimethyl 1-(2-azidoethyl)-4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (0.84 g, 2.34 mmol) in anhydrous DMF at 0° C. was added triphenylphosphine (0.92 g, 3.50 mmol). Water (300 μL) was added and the reaction was heated to 90° C. for 3 days. The solvent was removed in vacuo, and the resulting white solid was purified by flash chromatography on silica gel using 0-10% MeOH/CHCl3 gradient elution. Collection and concentration of the appropriate fractions afforded an oily solid which was triturated with methanol to yield a white precipitate. The solid was collected by vacuum filtration to afford the title product. ES MS (M+1)=302.

reactant | dimethyl 1-(2-azidoethyl)-4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 2.34 mmol, 0.84 g | N(=[N+]=[N-])CCN1N=C(C(=C1C(=O)OC)OCC1=CC=CC=C1)C(=O)OC | C16H17N5O5
reactant | triphenylphosphine | 3.50 mmol, 0.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | 300 μL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 3-benzyloxy-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCC2)=O)C(=O)OC | C15H15N3O4
